US07517875B2
After dissolving 4-amino-2-{[1-(3,4-dichloro-benzyl)-piperidin-4-ylmethyl]-amino}-benzimidazole-1-carboxylic acid tert-butyl ester (10 mg, 0.02 mmol) in tetrahydrofuran (1 ml), triethylamine (0.04 mmol) and propane-1-sulfonyl chloride (0.08 mmol) were added and the mixture was stirred at room temperature overnight. After adding a 4N hydrogen chloride-1,4-dioxane solution (1 ml) to the reaction mixture, it was stirred at 50° C. for 1 hour. The solvent was removed under reduced pressure, dichloromethane and 5N aqueous sodium hydroxide were added to the obtained residue, and after stirring, the organic layer was passed through SCX (Bond Elute SCX500MG). The SCX was washed with methanol and elution was performed with a 2N ammonia-methanol solution. The solvent was distilled off under reduced pressure to obtain propane-1-sulfonic acid (2-{[1-(3,4-dichloro-benzyl)-piperidin-4-ylmethyl]-amino}-1H-benzimidazol-4-yl)-amide. The compound was identified by LC-MS.

reactant | 4-amino-2-{[1-(3,4-dichloro-benzyl)-piperidin-4-ylmethyl]-amino}-benzimidazole-1-carboxylic acid tert-butyl ester | 0.02 mmol, 10 mg | C(C)(C)(C)OC(=O)N1C(=NC2=C1C=CC=C2N)NCC2CCN(CC2)CC2=CC(=C(C=C2)Cl)Cl | C25H31Cl2N5O2
reactant | triethylamine | 0.04 mmol | C(C)N(CC)CC | C6H15N
reactant | propane-1-sulfonyl chloride | 0.08 mmol | C(CC)S(=O)(=O)Cl | C3H7ClO2S
reactant | hydrogen chloride-1,4-dioxane | 4N, 1 ml | O1CCOCC1.Cl
solvent | tetrahydrofuran | 1 ml | O1CCCC1 | C4H8O
product | propane-1-sulfonic acid (2-{[1-(3,4-dichloro-benzyl)-piperidin-4-ylmethyl]-amino}-1H-benzimidazol-4-yl)-amide | ClC=1C=C(CN2CCC(CC2)CNC2=NC3=C(N2)C=CC=C3NS(=O)(=O)CCC)C=CC1Cl | C23H29Cl2N5O2S
